Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Hematuria, abnormal LFTs
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ y/o male with a past medical history of 
multiple myeloma s/p auto transplant at ___ ___ (currently 
receiving zometa) who presented to the ED with hematuria. 
Patient reports that he has had dark colored urine over the past 
few weeks and recently noticed hematuria over the past ___ days. 
Denies dysuria or urgency however reports increased frequency 
and noctiuria. He called his oncologist regarding this and was 
instructed to go to an urgent care. He presented to ___ 
Urgent Care where he was found to have elevated LFTs and a UTI 
(was given ceftriaxone). Labs were notable for a ALT 106, AST 
230, AP 909, TB 9.1 (direct 7.5), PLT 117, WBC 5.2. UA had a 
large number of WBCs and + nitrites. Given the significant lab 
disturbances he was transferred to ___ ED.  
 In addition to the above symptoms, patient reports having had 
nausea/vomiting over the past 6 weeks. States his nausea is 
worse in the morning. Denies headaches or vision changes. He 
denies abdominal pain. Patient reports drinking about ___ drinks 
per day (which he has done for years, since the age of ___). 
Denies new medications or acetaminophen use. He recently 
travelled to ___ a few weeks ago with a friend. States that 
he "hung out with his friend on the beach, had a good time and 
enjoyed life". He used THC while in ___ but no other 
ingestions. Denied herbal supplements. Reports having had bad 
thrush recently and was on a number of medications. Per review 
of his chart, he was on fluconazole in ___ and voriconazole 
in ___. He has also been on nystatin since that time.  
 In the ED, initial VS were T 98.1, BP 111/78, HR 97, RR 16, 98% 
RA. Labs were notable for WBC 5.1, Hb 10.1, MCV 106, PLT 97, Cr 
0.7, AST 206, ALT 83, AP 721, TB 8.8, DB 6.4, albumin 2.7, INR 
1.2. UA with WBC 4, RBC 0, large bili. RUQ US showed markedly 
echogenic liver c/w steatosis. Reported normal gallbladder and 
biliary ___. Patient received 1L NS, morphine 5 mg IV x2. 
Hepatology was consulted. Heme/Onc was called and did not think 
BMT admission was required.  
 On arrival to the floor, T 98.6, BP 146/79, HR 100, RR 18, 99% 
RA, weight 92.4 kg. Patient was A+Ox3 and not encephalopathic. 
Reported nausea and vomited during the interview (nonbloody, 
bilious emesis).  
 REVIEW OF SYSTEMS:  
 Denies fever, chills, night sweats, headache, vision changes, 
rhinorrhea, congestion, sore throat, cough, shortness of breath, 
chest pain, abdominal pain, diarrhea, constipation, BRBPR, 
melena, hematochezia.  
 
Past Medical History:
- multiple myeloma c/b hypercalcemia, compression fractures, rib 
fractures s/p auto transplant ___, received monthly zometa  
 - alcoholic hepatitis  
 - EtOH use, no h/o withdrawal or seizures  
 - h/o thrush  
 - osteoarthritis  
 - colon adenoma  
 - GERD  
 - HLD  
 - macrocytosis  
 - HLD  
 - ED  
 - gall bladder polyp  
 - peripheral neuropathy from chemo  
 - brachial plexopathy  
 
Social History:
___
Family History:
Two brothers, one passed away of colon cancer
Father: T2DM, CAD/PVD, Alzheimer's, deceased at ___
Mother: deceased, CAD/PVD, colon cancer
 
Physical Exam:
Admission exam:
 VS - T 98.6, BP 146/79, HR 100, RR 18, 99% RA, weight 92.4 kg.  

 GENERAL: A+Ox3, NAD, no asterixis, + jaundice  
 HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, good dentition  
 NECK: nontender supple neck, no LAD, no JVD  
 CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
 LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
 ABDOMEN: nondistended, +BS, mild tenderness in RUQ, no 
rebound/guarding, no hepatosplenomegaly  
 EXTREMITIES: no cyanosis, 1+ pitting edema to shins b/l, no 
calf tenderness, moving all 4 extremities with purpose  
 PULSES: 2+ DP pulses bilaterally  
 NEURO: CN II-XII intact, impaired extension of right wrist due 
to brachial plexus, other ___ LUE/RUE  
 SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  

Discharge exam:
VS - T 97.5, BP 101/79, HR 90, RR 18, 99% RA, weight 92.4 kg.  
GENERAL: A+Ox3, NAD, no asterixis, + jaundice  
HEENT: AT/NC, EOMI, PERRL, icteric sclera, pink conjunctiva, 
MMM, +sublingual jaundice, poor dentition.
NECK: nontender supple neck, no LAD, no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, mild tenderness in RUQ, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, 1+ edema to shins b/l, no calf 
tenderness, moving all 4 extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: no asterixis
 
Pertinent Results:
Admission labs:

___ 06:30PM   WBC-5.1 RBC-2.66* HGB-10.1* HCT-28.2* 
MCV-106* MCH-38.0* MCHC-35.8 RDW-18.2* RDWSD-70.9*
___ 06:30PM   NEUTS-84* BANDS-0 LYMPHS-6* MONOS-9 EOS-0 
BASOS-1 ___ MYELOS-0 AbsNeut-4.28 AbsLymp-0.31* 
AbsMono-0.46 AbsEos-0.00* AbsBaso-0.05
___ 06:30PM   VIT B12-1236*
___ 06:30PM   ALBUMIN-2.7* CALCIUM-8.5 PHOSPHATE-3.2 
MAGNESIUM-1.6
___ 06:30PM   LIPASE-42
___ 06:30PM   ALT(SGPT)-83* AST(SGOT)-206* ALK PHOS-721* 
TOT BILI-8.8* DIR BILI-6.4* INDIR BIL-2.4
___ 06:30PM   GLUCOSE-119* UREA N-10 CREAT-0.7 SODIUM-135 
POTASSIUM-3.8 CHLORIDE-98 TOTAL CO2-26 ANION GAP-15
___ 06:38PM   ___ PTT-29.3 ___
___ 08:05PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-LG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 08:05PM URINE  RBC-0 WBC-4 BACTERIA-FEW YEAST-NONE 
EPI-<1
___ 08:05PM URINE  U-PEP-NO PROTEIN
___ 08:05PM URINE  HOURS-RANDOM TOT PROT-15
___ 08:05PM URINE  COLOR-DkAmb APPEAR-Hazy SP ___
___ 10:22AM BLOOD ___
___ 10:22AM BLOOD PEP-AWAITING F IgG-557* IgA-785* IgM-29* 
IFE-PND
___ 10:22AM BLOOD Smooth-NEGATIVE
___ 06:30PM BLOOD VitB12-1236*
___ 10:22AM BLOOD ___ Ferritn-2992* TRF-86*
___ 04:45AM BLOOD Calcium-8.7 Phos-3.5 Mg-1.9
___ 10:17AM BLOOD TotProt-5.7*
___ 04:45AM BLOOD ALT-69* AST-142* AlkPhos-549* 
TotBili-6.9*
___ 06:30PM BLOOD Lipase-42
___ 04:45AM BLOOD Glucose-104* UreaN-6 Creat-0.8 Na-136 
K-3.6 Cl-100 HCO3-27 AnGap-13
___ 04:45AM BLOOD ___ PTT-29.8 ___
___ 04:45AM BLOOD WBC-3.9* RBC-2.30* Hgb-8.7* Hct-25.1* 
MCV-109* MCH-37.8* MCHC-34.7 RDW-19.0* RDWSD-74.8* Plt ___
___ 10:10AM URINE Hours-RANDOM TotProt-9

MICROBIOLOGY
   HIV-1 Viral Load/Ultrasensitive (Final ___: 
      HIV-1 RNA is not detected. 
___ 06:30PM   HCV Ab-NEGATIVE
___ 06:30PM   HBsAg-NEGATIVE HBs Ab-NEGATIVE IgM 
HAV-NEGATIVE
   HCV VIRAL LOAD (Final ___: 
      HCV-RNA NOT DETECTED. 
   ___ VIRUS VCA-IgG AB (Final ___:    NEGATIVE 
BY EIA. 
   ___ VIRUS EBNA IgG AB (Final ___:    POSITIVE 
BY EIA. 
   ___ VIRUS VCA-IgM AB (Final ___: 
      NEGATIVE <1:10 BY IFA. 
   CMV IgG ANTIBODY (Final ___: 
      NEGATIVE FOR CMV IgG ANTIBODY BY EIA. 
      <4 AU/ML. 
      Reference Range:  Negative < 4 AU/ml, Positive >= 6 AU/ml. 

   CMV IgM ANTIBODY (Final ___: 
      NEGATIVE FOR CMV IgM ANTIBODY BY EIA. 
 
Brief Hospital Course:
___ y/o male with a h/o multiple myeloma s/p auto transplant at 
___ ___ (currently receiving zometa) who presented to urgent 
care with gross hematuria. He had LFTs done concerning for 
transaminitis and hyperbilirubinemia to 8.9 and so was sent to 
___.

#Transaminitis/Cholestatic hepatitis: The etiology of his 
abnormal liver blood tests and jaundice was felt to be due to 
drug induced liver injury potentially due to 
voriconazole/fluconazole (last ___ for thrush. Patient's 
increased alcohol intake in recent weeks while travelling to 
___ may have been contributing as well.
He had a RUQ U/S that was negative for portal vein thrombosis or 
obstruction, and had an MRCP that showed normal biliary tree as 
well. Autoimmune hepatitis labs were negative, including ___ and 
anti-smooth muscle Ab. He had immunoglobulins done with SPEP; 
this showed elevated IgA consistent with etOH use. He had 
negative CMV, EBV, HIV, and HCV VL. His liver blood tests were 
downtrending by the time of discharge without needing 
intervention. Of note, his MRCP was concerning for early 
cirrhosis, and he warrants a fibroscan in the outpatient 
setting. 

#Pyuria: Patient was noted to have pyuria at urgent care prior 
to admission.  He was initially continued on ceftriaxone and 
transitioned to po ciprofloxacin. He will complete a ___nding ___. 

# Multiple myeloma s/p autoBMT ___. Currently on zoledronic 
acid. His home acyclovir and Bactrim were held during admission 
due to concern for hepatotoxicity and were restarted on 
discharge as transaminitis resolved. Per outpatient heme/onc 
records, he should remain on ppx for ___ after autoSCT (end 
___. UPEP and SPEP were not concerning for myeloma 
progression. 

#GERD: continued on home omeprazole.

TRANSITIONAL ISSUES
- Hepatitis labs were consistent with non-immune HepB status; 
please consider hepatitis B vaccine.
- Patient started on ciprofloxacin for pyuria seen in urgent 
care. Please follow up Atrius records for urine culture data, 
which was pending at time of discharge. He will complete a ___nding ___.
- Patient was restarted on prophylaxis with Bactrim and 
acyclovir, which should continue post-SCT until ___ per 
heme/onc notes. If LFTs continue to rise, these may need to be 
discontinued. 
- MRCP with concern for early cirrhosis on this admission as 
above. Patient will follow in ___ clinic for fibroscan 
and further management. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 20 mg PO DAILY 
2. FoLIC Acid 1 mg PO DAILY 
3. Acyclovir 400 mg PO TID 
4. Multivitamins 1 TAB PO DAILY 
5. Nystatin Oral ___ 100000U/ mL PO DAILY 
6. Zofran ODT (ondansetron) 8 mg oral DAILY:PRN nausea 
7. Gabapentin 600 mg PO QHS 
8. Metoprolol Succinate XL 100 mg PO DAILY 
9. Sildenafil 20 mg PO DAILY:PRN intercourse 
10. Aspirin 81 mg PO DAILY 
11. Sulfameth/Trimethoprim DS 1 TAB PO 3X/WEEK (___) 
12. alpha lipoic acid unknown mg oral DAILY 
13. Vitamin B Complex 1 CAP PO DAILY 
14. Vitamin E 400 UNIT PO DAILY 

 
Discharge Medications:
1. FoLIC Acid 1 mg PO DAILY 
2. Gabapentin 600 mg PO QHS 
3. Metoprolol Succinate XL 100 mg PO DAILY 
4. Multivitamins 1 TAB PO DAILY 
5. Omeprazole 20 mg PO DAILY 
6. Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth every twelve 
(12) hours Disp #*6 Tablet Refills:*0
7. Thiamine 100 mg PO DAILY 
RX *thiamine HCl 100 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
8. Acyclovir 400 mg PO TID 
9. alpha lipoic acid unknown  ORAL DAILY 
10. Aspirin 81 mg PO DAILY 
11. Nystatin Oral ___ 100000U/ mL PO DAILY 
12. Sildenafil 20 mg PO DAILY:PRN intercourse 
13. Sulfameth/Trimethoprim DS 1 TAB PO 3X/WEEK (___) 
14. Vitamin B Complex 1 CAP PO DAILY 
15. Vitamin E 400 UNIT PO DAILY 
16. Zofran ODT (ondansetron) 8 mg ORAL DAILY:PRN nausea 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY: Acute hepatitis
Secondary: Multiple Myeloma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure treating you at ___ 
___. You were admitted with concern for your liver function 
tests. While inpatient, you underwent a number of lab tests and 
imaging which helped rule out a number of potential causes of 
liver injury. It is likely that a combination of your alcohol 
intake and certain medications you were taking contributed to 
your liver injury. It is important you follow-up as an 
outpatient with your providers to ensure resolution / further 
work-up of your liver symptoms. Please continue to take your 
medications as prescribed.

Wishing you the best of health,
Your ___ team
 
Followup Instructions:
___